2138-12-09 08:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Metabolic Acidosis ( Renal Failure, Diarrhea)
   24 Hour Events:
 ULTRASOUND thighs: no abscess
   HCO3 infusion stopped with climbing Ph.
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Vertigo;
   Phenergan (Injection) (Promethazine Hcl)
   Respiratory dep
   Last dose of Antibiotics:
   Ciprofloxacin - [**2138-12-8**] 06:00 PM
   Metronidazole - [**2138-12-9**] 06:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-12-9**] 12:09 AM
   Heparin Sodium (Prophylaxis) - [**2138-12-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-12-9**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 77 (64 - 110) bpm
   BP: 118/63(78) {110/41(57) - 160/81(91)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,579 mL
                                                                    200 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,179 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,068 mL
                                                                    220 mL
   Urine:
                                                                    748 mL
                                                                    160 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,511 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.39/26/96.[**Numeric Identifier 244**]/16/-7
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , ostomy with green output
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   175 K/uL
   73 mg/dL
   3.3 mg/dL
   16 mEq/L
   4.1 mEq/L
   40 mg/dL
   111 mEq/L
   144 mEq/L
   22.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2138-12-7**]  10:47 PM
                             [**2138-12-8**]  12:29 AM
                             [**2138-12-8**]  04:13 AM
                             [**2138-12-8**]  11:14 AM
                             [**2138-12-8**]  03:26 PM
                             [**2138-12-8**]  10:02 PM
                             [**2138-12-9**]  04:30 AM
   WBC
   17.3
   12.5
   9.1
   Hct
   28.1
   26.4
   22.2
   Plt
   [**Telephone/Fax (3) 6340**]
   Cr
   3.8
   3.6
   3.3
   3.3
   TCO2
   9
   17
   16
   Glucose
   87
   87
   73
   73
   Other labs: PT / PTT / INR:19.4/55.6/1.8, ALT / AST:[**8-25**], Alk Phos / T
   Bili:131/0.2, Amylase / Lipase:67/37, Differential-Neuts:75.2 %,
   Band:0.0 %, Lymph:18.7 %, Mono:4.8 %, Eos:1.0 %, Lactic Acid:1.2
   mmol/L, Albumin:2.3 g/dL, LDH:251 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   75 yo female with stage 4 CKD, UC s/p colectomy with increasing SOB in
   the setting of a metabolic acidosis, from her acute on chronic renal
   failure and increased illeostomy output leading to respiratory efforts
   to compensate for her mixed metabolic acidosis.
   >Renal failure  / Metabolic Acidosis: acute on chronic renal failure
   with high AG metabolic acidosis (normal lactate, and trace ketones in
   urine and neg in serum) with adequate resp compensation (pCO2 of 18) as
   predicted by [**Doctor Last Name 2056**] equation. There is  also a non gap component
   (increased delta-delta) with + UAG  likely indicative of an RTA
   (although stool losses have added)
   Markedly improved over the last 24hrs
   - restart home PO HCO3
   - f/u wih renal re: regarding initiation of HD
   > Anemia: Hct drop to 22 from 30 on admission (all cell lines down).
   Heme-occult stools. Goal Hct >21.  Notably she is folate and B12
   replete. Suspect some of this is on account of diarrhea and partly
   dilutional
    - would restart EPO
   - check hemolysis labs (occ schistos on periph smear) and Retic count.
   >Leukocytosis: unclear source with increased ostomy output (? recent
   abx course).  Initial c.diff  neg but high clinical suspicion so will
   cont treatment for now.  Dirty UA will treat with ciprofloxacin ([**12-8**] =
   day 1), awaiting urine culture.
   - Flagyl  (started IV: [**12-7**]). Cont empirically for now and treat for
   additional 7 days after stopping other antibiotics
   - Cipro ([**12-8**]) for probable UTI awaiting
   - ? skin cellulitis on thigh is improved. No evidence of abscess on
   US.  Check Vanco level: Vanco course for 10 days given improvement with
   treatment.
   >HTN: hold treatment for now.
   >CAD: ASA and plavix. (70%EF with nl valves [**3-14**])
   >OSA: BiPAP at night
   ICU Care
   Nutrition:
   Comments: NPO (awaiting HD line)
   Glycemic Control:  Comments: not indicated
   Lines:
   20 Gauge - [**2138-12-7**] 10:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  updated family regarding current condition
   Code status: Full code
   Disposition : To Floor if HCT stable.
   Total time spent: 35 minutes